US06239131B1
Preparation of 1-[(3R)-1-tert-butylcarbonylmethyl-2-oxo-5-[(1S)-2-pinen-10-yl]-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(3-tert-butoxycarbonylphenyl)urea
Step 2 of Example 1 was repeated except that 1-[(3R)-2-oxo-5-[(1S)-2-pinen-10-yl]-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(3-tert-butoxycarbonylphenyl)urea was used instead of 2-oxo-3-tert-butoxycarbonylamino-5-pivaloyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine, that bromomethyl-tert-butylketone was used instead of 2-bromo-2′-methylacetophenone, and that N,N-dimethyl acetamide was used instead of tetrahydrofuran as solvent, to thereby obtain the title compound.

reactant | 1-[(3R)-2-oxo-5-[(1S)-2-pinen-10-yl]-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(3-tert-butoxycarbonylphenyl)urea | O=C1[C@@H](CN(C2=C(N1)C=CC=C2)CC=2[C@@H]1C(C(CC2)C1)(C)C)NC(=O)NC1=CC(=CC=C1)C(=O)OC(C)(C)C | C31H38N4O4
reactant | bromomethyl-tert-butylketone | BrCC(=O)C(C)(C)C | C6H11BrO
solvent | N,N-dimethyl acetamide | CN(C(C)=O)C | C4H9NO
product | 1-[(3R)-1-tert-butylcarbonylmethyl-2-oxo-5-[(1S)-2-pinen-10-yl]-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(3-tert-butoxycarbonylphenyl)urea | C(C)(C)(C)C(=O)CN1C([C@@H](CN(C2=C1C=CC=C2)CC=2[C@@H]1C(C(CC2)C1)(C)C)NC(=O)NC1=CC(=CC=C1)C(=O)OC(C)(C)C)=O | C37H48N4O5
